US07795283B2
iii) Diethyl [4-(1,4-dioxaspiro[4.5]dec-8-yl)phenyl]malonate
4-(1,4-Dioxaspiro[4.5]dec-8-yl)phenyl 4-methylbenzenesulphonate (2.05 g, 5.27 mmol) was stirred with 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (Xphos) (502 mg, 1.05 mmol) and caesium carbonate (5.15 g, 15.81 mmol) in toluene (40 mL) at room temperature under a nitrogen atmosphere. The reaction mixture was degassed several times then palladium(II) acetate (95 mg, 0.42 mmol) was added, followed by diethyl malonate (0.96 mL, 6.324 mmol). The mixture was heated under reflux for 40 h then was filtered through diatomaceous earth and concentrated by evaporation. The residue was adsorbed onto silica and purified by chromatography eluting with 0-40% EtOAc/isohexane to give the title compound (294 mg, 15%) as an oil; 1H NMR δ 1.18 (6H, t), 1.58-1.71 (4H, m), 1.75 (4H, t), 2.56 (1H, t), 3.89 (4H, q), 4.08-4.20 (4H, m), 4.88 (1H, s), 7.15-7.29 (4H, m); MS m/e MH+ 377.

reactant | 4-(1,4-Dioxaspiro[4.5]dec-8-yl)phenyl 4-methylbenzenesulphonate | 5.27 mmol, 2.05 g | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)C1CCC2(OCCO2)CC1 | C21H24O5S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 1.05 mmol, 502 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | caesium carbonate | 15.81 mmol, 5.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | diethyl malonate | 6.324 mmol, 0.96 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.42 mmol, 95 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Diethyl [4-(1,4-dioxaspiro[4.5]dec-8-yl)phenyl]malonate | 294 mg, 15% | O1CCOC12CCC(CC2)C2=CC=C(C=C2)C(C(=O)OCC)C(=O)OCC | C21H28O6
